US08709615B2
Dibenzo[b,d]furan-4-ylboronic acid (25 g, 118 mmol), 2,4-dichloropyridine (19.2 g, 130 mmol), Pd(PPh3)4 (4.1 g, 3.5 mmol) and potassium carbonate (48.9 g, 354 mmol) were added to dimethoxyethane (200 mL) and water (200 mL). The reaction mixture was degassed with nitrogen before being heated to reflux overnight. EtOAc and water were added, the organic layer separated and the aqueous layer was extracted with 3×50 mL dichloromethane and dried over sodium sulfate. After removing the solvent under reduced pressure, the crude product was chromatographed on silica gel with dichloromethane to yield 33.4 g of crude product. The product was crystallized from hexane to give 27.0 g (82%) of 4-chloro-2-(dibenzo[b,d]furan-4-yl)pyridine as white needles. The product was confirmed by GC/MS and NMR.

reactant | Dibenzo[b,d]furan-4-ylboronic acid | 118 mmol, 25 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | 2,4-dichloropyridine | 130 mmol, 19.2 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
reactant | potassium carbonate | 354 mmol, 48.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 200 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 3.5 mmol, 4.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 200 mL | O | H2O
product | 4-chloro-2-(dibenzo[b,d]furan-4-yl)pyridine | 27.0 g, 82% | ClC1=CC(=NC=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C17H10ClNO
